US08247341B2
Diisobutylsilanediyl bis(trifluoromethanesulfonate):
An oven-dried 250 mL-RB flask is charged with diisobutylchlorosilane (17.9 g, 0.10 mol). Then trifluoromethanesulfonic acid (45 g, 0.30 mol) is added dropwise. The mixture is heated at 60° C. until no HCl evolves (about 6 hours). The residue is distilled to yield 32 g (73%) of the product as a clear liquid. 1H NMR (500 MHz, CDCl3, in ppm) δ 2.06 (theptat, 2H, J=6.5 Hz, 7.0 Hz), 1.26 (d, 4H, J=7.0 Hz), 1.09 (d, 6H, J=6.5 Hz).

reactant | diisobutylchlorosilane | 0.10 mol, 17.9 g | C(C(C)C)[SiH](Cl)CC(C)C | C8H19ClSi
reactant | trifluoromethanesulfonic acid | 0.30 mol, 45 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | HCl | Cl | ClH
product | Diisobutylsilanediyl bis(trifluoromethanesulfonate) | 32 g, 73% | FC(S(=O)(=O)O[Si](CC(C)C)(CC(C)C)OS(=O)(=O)C(F)(F)F)(F)F | C10H18F6O6S2Si
